US05371101
In the same manner as in Reference Example 5, starting from 0.68 g of (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol and 0.70 g of 1-[4-(2,2,2-trifluoroethoxy)phenyl]-2(1H,3H)-imidazolone, 0.30 g of 1-[-(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1methylpropyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2(1H,3H)-imidazolone was obtained as colorless needles.

reactant | (1S)-1-[(2R)-(2,4-difluorophenyl)-2-oxiranyl]ethanol | 0.68 g | FC1=C(C=CC(=C1)F)[C@]1(OC1)[C@H](C)O | C10H10F2O2
reactant | 1-[4-(2,2,2-trifluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 0.70 g | FC(COC1=CC=C(C=C1)N1C(NC=C1)=O)(F)F | C11H9F3N2O2
product | 1-[-(1R,2S)-2-(2,4-difluorophenyl)-2,3-epoxy-1methylpropyl]-3-[4-(2,2,2-trifluoroethoxy)phenyl]-2(1H,3H)-imidazolone | 0.30 g | FC1=C(C=CC(=C1)F)[C@]1([C@@H](C)N2C(N(C=C2)C2=CC=C(C=C2)OCC(F)(F)F)=O)CO1 | C21H17F5N2O3
